US06444677B2
Dimethyl 2-[2-[4-[[1-[(cyclopentylamino)methyl]cyclopentyl]methyl]-1-piperazinyl]-2-oxoethyl]-4-(2,6dichlorophenyl)-6-[2-(1,3-thiazol-2-yl)ethyl]-1,4-dihydro-3,5-pyridinedicarboxylate
To a suspension of dimethyl 2-[2-[4-[[1-(aminomethyl)cyclopentyl]methyl]-1-piperazinyl]-2-oxoethyl]-4-(2,6-dichlorophenyl)-6-[2-(1,3-thiazol-2-yl)ethyl]-1,4-dihydro-3,5-pyridinedicarboxylate (205 mg/0.298 mmol) and cyclopentanone (0.032 ml/0.36 mmol) in dichloromethane (2 ml) was added AcOH (1 drop) and the resulting mixture was stirred for 5 minutes. NaBH(OAc)3 (80 mg/0.36 mmol) was added to the mixture and the resulting mixture was stirred for 5 hours. The mixture was diluted with dichloromethane (50 ml) and the resulting solution was washed with water (10 ml) and brine (10 ml) successively. The solution was dried over magnesium sulfate, filtered and concentrated. The residue was purified by column chromatography (NH2 gel/dichloromethane:methanol=100:0-100:2) to give a yellow film (220 mg/98%).

reactant | dimethyl 2-[2-[4-[[1-(aminomethyl)cyclopentyl]methyl]-1-piperazinyl]-2-oxoethyl]-4-(2,6-dichlorophenyl)-6-[2-(1,3-thiazol-2-yl)ethyl]-1,4-dihydro-3,5-pyridinedicarboxylate | 0.298 mmol, 205 mg | NCC1(CCCC1)CN1CCN(CC1)C(CC=1NC(=C(C(C1C(=O)OC)C1=C(C=CC=C1Cl)Cl)C(=O)OC)CCC=1SC=CN1)=O | C33H41Cl2N5O5S
reactant | cyclopentanone | 0.36 mmol, 0.032 ml | C1(CCCC1)=O | C5H8O
reactant | NaBH(OAc)3 | 0.36 mmol, 80 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
catalyst | AcOH | 1 drop | CC(=O)O | C2H4O2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | Dimethyl 2-[2-[4-[[1-[(cyclopentylamino)methyl]cyclopentyl]methyl]-1-piperazinyl]-2-oxoethyl]-4-(2,6dichlorophenyl)-6-[2-(1,3-thiazol-2-yl)ethyl]-1,4-dihydro-3,5-pyridinedicarboxylate | C1(CCCC1)NCC1(CCCC1)CN1CCN(CC1)C(CC=1NC(=C(C(C1C(=O)OC)C1=C(C=CC=C1Cl)Cl)C(=O)OC)CCC=1SC=CN1)=O | C38H49Cl2N5O5S
